US07153878B2
3-(4-{1-[4-Isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester
A solution of 1-[4-isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-ethanol (140 mg, 0.446 mmol) and 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester (122 mg, 0.624 mmol) in toluene (15 mL) is degassed and filled with nitrogen for 3 times. Tributylphosphine (144 mg, 0.713 mmol) is added to the reaction mixture under nitrogen at 0° C., followed by addition of of 1,1′-(azodicarbonyl)-dipiperidine (169 mg, 0.669 mmol). The reaction mixture is allowed to warm to room temperature and stirred for 4 hours. The mixture is loaded directly on silica gel column chromatography with 10–25% EtOAc/Hexanes to afford the title compound (25 mg, 11%).

reactant | 1-[4-isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-ethanol | 0.446 mmol, 140 mg | C(C)(C)C=1N=C(OC1C(C)O)C1=CC=C(C=C1)OC(F)(F)F | C15H16F3NO3
reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 0.624 mmol, 122 mg | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
reactant | Tributylphosphine | 0.713 mmol, 144 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 0.669 mmol, 169 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{1-[4-Isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester | 25 mg, 11% | COC(CCC1=C(C=C(C=C1)OC(C)C1=C(N=C(O1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C)C)=O | C26H28F3NO5
